US06005116
(a) 3-(2-(N-tert-Butoxycarbonylamino)ethoxy)-4-(2-butenyl)-5-phenylisoxazole
3-Hydroxy-4-(2-butenyl)-5-phenylisoxazole (215 mg) and 2-(N-tert-butoxycarbonylamino)ethanol (193 mg) were subjected to reaction and post-treatment in a similar manner to that described in Example 1(a) to obtain the title compound (292 mg, 82%) as colorless crystals.

reactant | 3-Hydroxy-4-(2-butenyl)-5-phenylisoxazole | 215 mg | OC1=NOC(=C1CC=CC)C1=CC=CC=C1 | C13H13NO2
reactant | 2-(N-tert-butoxycarbonylamino)ethanol | 193 mg | C(C)(C)(C)OC(=O)NCCO | C7H15NO3
product | 3-(2-(N-tert-Butoxycarbonylamino)ethoxy)-4-(2-butenyl)-5-phenylisoxazole | 292 mg, 82% | C(C)(C)(C)OC(=O)NCCOC1=NOC(=C1CC=CC)C1=CC=CC=C1 | C20H26N2O4
